US05608056
(2R,4R)-1-Allyloxycarbonyl-2-{2-(4-carbamoylmethyl-imidazol-1-yl) ethyl}-4-methanesulfonyloxypyrrolidine (2.74 g) were reacted with thiobenzoic acid (1.69 ml) and potassium t-butoxide (1.54 g) in substantially the same manner as Preparation 19-2) to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(4-carbamoylmethyl-imidazol-1-yl) ethyl]pyrrolidine (2.30 g) as a yellow solid.

reactant | (2R,4R)-1-Allyloxycarbonyl-2-{2-(4-carbamoylmethyl-imidazol-1-yl) ethyl}-4-methanesulfonyloxypyrrolidine | 2.74 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC(=C1)CC(N)=O | C16H24N4O6S
reactant | thiobenzoic acid | 1.69 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium t-butoxide | 1.54 g | CC(C)([O-])C.[K+]
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(4-carbamoylmethyl-imidazol-1-yl) ethyl]pyrrolidine | 2.30 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CCN1C=NC(=C1)CC(N)=O | C22H26N4O4S
